US05516774
5,10-Dihydro-5-(4-aminobenzoyl)-4H-pyrazolo-[5,1-c]-[1,4]benzodiazepine
To a solution of 5 mmol of 5,10-dihydro-5-(4-nitrobenzoyl)-4H-pyrazolo-[5,1-c][1,4]benzodiazepine in 25 ml of ethyl alcohol is added 0.3 g of 10% Pd/C and 15 mmol of hydrazine. The mixture is heated under reflux for 3 hours, and the mixture is filtered through diatomaceous earth. The filtrate is concentrated in vacuo to a residue which is dissolved in methylene chloride and passed through a thin pad of hydrous magnesium silicate. The filtrate is concentrated in vacuo to give the desired product which is purified by flash chromatography on silica gel to give the desired product as a solid, exact mass by mass spectrometry: 305.1402(M+H) .

reactant | 5,10-dihydro-5-(4-nitrobenzoyl)-4H-pyrazolo-[5,1-c][1,4]benzodiazepine | 5 mmol | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)N=CC3)C=C1 | C18H14N4O3
reactant | hydrazine | 15 mmol | NN | H4N2
solvent | ethyl alcohol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 5,10-Dihydro-5-(4-aminobenzoyl)-4H-pyrazolo-[5,1-c]-[1,4]benzodiazepine | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)N=CC3)C=C1 | C18H16N4O
